US05378714
1-[3-(3,4-Methylenedioxyphenylcarbamoyloxy)propyl]-4-(6-fluoro-1H-indazol-3-yl) piperidine
A solution of 3-[1-(1-hydroxyprop-3-yl)-4-piperidinyl]-6-fluoro-1H-indazole (230 mg, 0.83 mmol) in 5 ml dry DMF was added 3,4-methylenedioxyphenylisocyanate (291 mg, 1.65 mmol) in 3 ml dry DMF. The reaction was heated to 100° C. for 2 h and 16 h at 80° C. The reaction was cooled to room temperature and added a mixture of 50 ml water and 200 ml ether, filtered and separated. The ether phase was washed with water, brine and dried with sodium sulphate and concentrated in vacuo. The crude product was purified by chromatography on silica gel 60 eluting with ethyl acetate:methanol (9:1, v/v). Concentration of the appropriate fractions afforded 50 mg (11%) of the title compound as an amorphous solid.

reactant | 3-[1-(1-hydroxyprop-3-yl)-4-piperidinyl]-6-fluoro-1H-indazole | 0.83 mmol, 230 mg | OCCCN1CCC(CC1)C1=NNC2=CC(=CC=C12)F | C15H20FN3O
reactant | 3,4-methylenedioxyphenylisocyanate | 1.65 mmol, 291 mg | C1OC=2C=C(C=CC2O1)N=C=O | C8H5NO3
reactant | water | 50 ml | O | H2O
reactant | ether | 200 ml | CCOCC | C4H10O
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 1-[3-(3,4-Methylenedioxyphenylcarbamoyloxy)propyl]-4-(6-fluoro-1H-indazol-3-yl) piperidine | 50 mg, 11% | C1OC=2C=C(C=CC2O1)NC(=O)OCCCN1CCC(CC1)C1=NNC2=CC(=CC=C12)F | C23H25FN4O4
